2195-04-03 10:51:00 Physician Resident Progress Note
Chief Complaint: complicated medical course, s/p fall,
   academia/hypercarbia on floor
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2195-4-2**] 07:42 PM
 placed on
   autoset for several hours.  Repeat gas was still academic and
   transferred to MICU.
 INDWELLING PORT (PORTACATH) - START [**2195-4-2**] 08:30 PM
   by record appears the port was placed around [**2195-3-26**]
   Started on antibiotics based on CXR concerning for aspiration, diarrhea
   concerning for C Diff.
   BIPAP taken off this morning
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Cefipime - [**2195-4-2**] 11:30 PM
   Vancomycin - [**2195-4-3**] 12:00 AM
   Metronidazole - [**2195-4-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Humalog - [**2195-4-2**] 11:00 PM
   Pantoprazole (Protonix) - [**2195-4-3**] 08:00 AM
   Morphine Sulfate - [**2195-4-3**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-3**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 94 (76 - 105) bpm
   BP: 101/37(53) {83/25(39) - 131/58(75)} mmHg
   RR: 30 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,748 mL
                                                                  1,489 mL
   PO:
             TF:
   IVF:
                                                                  1,748 mL
                                                                  1,489 mL
   Blood products:
   Total out:
                                                                    110 mL
                                                                    380 mL
   Urine:
                                                                    110 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,638 mL
                                                                  1,109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 300 (300 - 400) mL
   Vt (Spontaneous): 767 (201 - 961) mL
   PS : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 25 cmH2O
   SpO2: 94%
   ABG: ///24/
   Ve: 3.1 L/min
   Physical Examination
   Gen: NAD
   Pulm: crackles at R base
   CV: RRR, multiple dressings over anterior chest at sites of skin tears
   Abd: soft, BS+, ND/NT
   Ext:  RUE with ace wrap, knee immobilizer in place
   Peripheral Vascular: pulses intact
   Skin:  warm, dry, multiple ecchymosis, skin tears
   Neurologic: [**Last Name (LF) 4700**], [**First Name3 (LF) **] daughter was appropriate prior to morphine
   dosing
   Labs / Radiology
   114 K/uL
   7.7 g/dL
   108 mg/dL
   2.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   73 mg/dL
   112 mEq/L
   145 mEq/L
   24.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2195-4-3**]  02:22 AM
                             [**2195-4-3**]  04:43 AM
   WBC
   4.6
   Hct
   25.2
   24.9
   Plt
   114
   Cr
   2.9
   Glucose
   108
   Other labs: PT / PTT / INR:10.7/28.1/0.9, Lactic Acid:1.7 mmol/L,
   Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 year old female with very complicated medical history including
   Crohn's disease, with both bleeding and clotting who fell out of bed
   and sustained multiple fractures and ecchymosis; transferred to the ICU
   [**2195-4-2**] for hypercarbia and respiratory acidosis for non-invasive
   ventilation.
   # Hypercarbic respiratory failure: Patient with worsened hypercarbia
   upon evaluation today.  Initially suspected [**3-3**] narcotics use given
   recent injury but last dosing was [**3-28**].  Could also consider OSA that
   has been untreated but daughter states patient rarely uses CPAP at
   home.  Other considerations include PE (given history, femur fracture
   and off Lovenox) vs PNA.
    - CXR --> with e/o new consolidation, will treat for HAP, continue
   vanc/cefepime and DC flagyl  (terrible diarrhea in the past)
    - Hold CTA, Ddimer given ARF/CKD
   -  follow VBG
 start noninvasive if pH< 7.2 or CO2> 65
   # Fall with mulitple fractures and laceration: Intraarticular right
   knee/femur fracture and right elbow fracture with associated head
   injury and deep laceration to right arm and tear of left leg. Pt became
   more sleepy with oxycodone, so this was discontinued.  She was then
   treated with 7 days of Cefazolin per Ortho recs.  This was discontinued
   [**2195-4-2**]
    - Pain management: Tylenol scheduled (PR while NPO), Morphine PRN
    - Ortho recs (will need follows in 2 weeks with [**Doctor Last Name 3234**] [**Telephone/Fax (1) 11762**])
    - Vitamin A per Plastics
    - Take down brace once daily for skin checks
    - Avoid creams/lotions as may macerate skin further
    - Will need Plastics follow-up Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] @ [**Hospital3 290**]
   [**Telephone/Fax (1) 11763**]
    - Dressing changes Q3 days per Plastics
   # Hypothermia: Noted [**2195-4-2**], now resolved.  Concern for possible
   infectious sepsis.  Blood and urine cultures were obtained.  She was
   bolused with NS and treated with increased Dexamethasone given she's
   chronically on steroids for her Crohn's disease.
    - Decadron 4mg IV Q8
    - Continue abx as above
    - Send C.diff x 3
    - CXR to evaluate for pulmonary process --> with e/o new
   consolidation, will treat for HAP as above
    - Follow-up urine and blood cultures
   # AMS: Suspect multifactorial including toxic-metabolic abnormalities
   (hypercarbia, infection); hospital delirium and/or infection that is
   being untreated.  UA from catheter concerning infection, awaiting urine
   culture.
    - Infectious work-up as above
    - Avoid sedating medications while trying to control pain
 morphine
   prn
    - Avoid unnessary wake-ups
   # Oliguria: Patient with intermittent oliguria during hospitalization.
   This has been in conjunction with poor po intake and [**Last Name (un) **] on CKD.
   Baseline Cr 2.2.  Upon transfer patient is getting D5/NS at 125mL/hr.
    - Monitor urine output
    - Continue IVF for now
    - If poor urine output: Ulytes, UEos (multiple antibiotics exposures)
   - Goal for fluid is negative, continue to monitor and treat with lasix
   if needed
   # Acute on chronic renal failure: Cr improved to 2.9 today, baseline is
   2.2. Per renal, somewhere between pre-renal and ATN. Renal ultrasound
   without hydronephrosis.
    - cont to monitor
    - Renally dose as appropriate
    - Kayexelate PR/PO if newly hyperkalemic
   # Acute on chronic anemia: History of myelodysplastic disorder, now
   with acute blood loss [**3-3**] to multiple eccymoses /  hematomas.  CT
   abdomen negative for RP bleed.  S/p 4U PRBC prior to transfer to the
   ICU.
    - Steroids as above (increased dosing)
    - PPx Bactrim once taking improved PO
    - monitor Hct daily
    - T&S
    - B12 injections monthly, Folate
   # Crohn's: Currently with diarrhea, though may be related to Kayexelate
   given for hyperkalemia
    - continue mesalamine once tolerating PO
    - could consider Mesalamine enemas if truly thought to be flair
    - Increased steroids as above
    - f/u C. Diff culture, hold flagyl
   # Hx of PE/DVT: last DVT [**5-8**] with PICC. Was on lovenox at home, but
   now concern for bleeding in setting of significant lacerations and
   fractures. Lovenox held briefly while inpatient for acute blood loss
   anemia.   She has IVC filter.
    - follow Hct
   - hold lovenox for now
   # Loss of vision/cataracts: per daughter lost vision in left eye 2
   months ago, no eye evaluation since due to unable to get to doctors
   [**Name5 (PTitle) **].  Ophthalmology consulted while inpatient and recommended
   continuation of home eye drops.
    - eye gtts per home regimen
   # Decubitus ulcer: Being followed by wound care with multiple
   recommendations.
    - Atmos Air Mattress
    - Wound Care recs
   # FEN: IVF prn / Replete PRN & monitor for hyperkalemia / NPO while
   mental status poor
   # Prophylaxis:
    - DVT
 IVC filter, hold heparin/lovenox
    - Bowel regimen
    - PPI given steroids
    - Insulin Sliding Scale while on increased Decadron
   # Access: PIV, Port
   # Code: DNR/DNI per daughter (who is at the bedside), avoid central
   lines/arterial lines
   # Communication: Patient (Russian) , daughter
   # Emergency Contact: Daughter
   # Disposition: ICU pending improvement
 consider call out if pt.
   stable on prn bipap

2195-04-04 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-31**] aerobic cultures grew out GPC in pairs and clusters, already on
   vanc
   Earlier in evening was intermittently calling out for her mother,
   thought to be in pain by her daughter, given 0.5mg morphine.
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Last dose of Antibiotics:
   Vancomycin - [**2195-4-3**] 12:00 AM
   Metronidazole - [**2195-4-3**] 08:00 AM
   Cefipime - [**2195-4-3**] 10:20 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-4-3**] 08:00 AM
   Morphine Sulfate - [**2195-4-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 75 (74 - 103) bpm
   BP: 124/56(73) {98/26(42) - 131/62(77)} mmHg
   RR: 26 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 63 Inch
             Total In:
                                                                  1,676 mL
                                                                     71 mL
   PO:
             TF:
   IVF:
                                                                  1,676 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    795 mL
                                                                    320 mL
   Urine:
                                                                    795 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    881 mL
                                                                   -249 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 767 (767 - 767) mL
   PS : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 25 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 3.1 L/min
   Physical Examination
   Gen: NAD
   Pulm: diffuse bibasilar crackles
   CV: RRR, multiple dressings over anterior chest at sites of skin tears
   Abd: soft, BS+, ND/NT
   Ext:  RUE with ace wrap, knee immobilizer in place
   Peripheral pulses intact
   Skin:  warm, dry, multiple ecchymosis, skin tears
   Neurologic: [**Last Name (LF) 4700**], [**First Name3 (LF) **] daughter was appropriate prior to morphine
   dosing
   Labs / Radiology
   136 K/uL
   7.5 g/dL
   108 mg/dL
   2.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   73 mg/dL
   112 mEq/L
   145 mEq/L
   24.5 %
   6.4 K/uL
        [image002.jpg]
                                                                [**2195-4-4**]
                                                                    06:15a
   _______________________________________________________________________
                                     pH
                                    7.35
                                    pCO2
                                     43
                                     pO2
                                     158
                                    HCO3
                                     25
                                   BaseXS
                                     -1
   Comments:
   pO2: Green Top Tube
   Type:Mix
   Lactate:0.8
                                                                [**2195-4-3**]
                                                                     2:17p
   _______________________________________________________________________
                                     pH
                                    7.21
                                    pCO2
                                     62
                                     pO2
                                     42
                                    HCO3
                                     26
                                   BaseXS
                                     -4
   Comments:
   pH: Provider Notified [**Name9 (PRE) **] [**Name9 (PRE) **] Lab Policy
   Type:[**Last Name (un) **]; Not Intubated; Vent:Spontaneous; O2-Flow:3; Temp:37.7
   Comments:
   Temp: 97.8ax
   O2Sat: 73
                             [**2195-4-3**]  02:22 AM
                             [**2195-4-3**]  04:43 AM
                             [**2195-4-3**]  12:28 PM
                             [**2195-4-4**]  06:05 AM
   WBC
   4.6
   6.4
   Hct
   25.2
   24.9
   26
   24.5
   Plt
   114
   136
   Cr
   2.9
   Glucose
   108
   Other labs: PT / PTT / INR:10.7/28.1/0.9, Lactic Acid:0.8 mmol/L,
   Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 year old female with very complicated medical history including
   Crohn's disease, with both bleeding and clotting who fell out of bed
   and sustained multiple fractures and ecchymosis; transferred to the ICU
   [**2195-4-2**] for hypercarbia and respiratory acidosis for non-invasive
   ventilation.
   # Hypercarbic respiratory failure: Patient with worsened hypercarbia
   upon evaluation today.  Initially suspected [**3-3**] narcotics use given
   recent injury but last dosing was [**3-28**].  Could also consider OSA that
   has been untreated but daughter states patient rarely uses CPAP at
   home.  Other considerations include PE (given history, femur fracture
   and off Lovenox) vs PNA.
    - CXR --> with e/o new consolidation, will treat for HAP, continue
   vanc/cefepime and DC flagyl  (terrible diarrhea in the past)
    - Hold CTA, Ddimer given ARF/CKD
   -  follow VBG
 start noninvasive if pH< 7.2 or CO2> 65
   # Fall with mulitple fractures and laceration: Intraarticular right
   knee/femur fracture and right elbow fracture with associated head
   injury and deep laceration to right arm and tear of left leg. Pt became
   more sleepy with oxycodone, so this was discontinued.  She was then
   treated with 7 days of Cefazolin per Ortho recs.  This was discontinued
   [**2195-4-2**]
    - Pain management: Tylenol scheduled (PR while NPO), Morphine PRN
    - Ortho recs (will need follows in 2 weeks with [**Doctor Last Name 3234**] [**Telephone/Fax (1) 11762**])
    - Vitamin A per Plastics
    - Take down brace once daily for skin checks
    - Avoid creams/lotions as may macerate skin further
    - Will need Plastics follow-up Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] @ [**Hospital3 290**]
   [**Telephone/Fax (1) 11763**]
    - Dressing changes Q3 days per Plastics
   # Positive Blood Cultures: GPC in pairs and clusters, [**2-2**]: likely
   contaminant, will await speciation, already on vanco.
   # Hypothermia: Noted [**2195-4-2**], now resolved.  Concern for possible
   infectious sepsis.  Blood and urine cultures were obtained.  She was
   bolused with NS and treated with increased Dexamethasone given she's
   chronically on steroids for her Crohn's disease.
    - Decadron 4mg IV Q8
    - Continue abx as above
    - Send C.diff x 3
    - CXR to evaluate for pulmonary process --> with e/o new
   consolidation, will treat for HAP as above
    - Follow-up urine and blood cultures
   # AMS: Suspect multifactorial including toxic-metabolic abnormalities
   (hypercarbia, infection); hospital delirium and/or infection that is
   being untreated.  UA from catheter concerning infection, awaiting urine
   culture.
    - Infectious work-up as above
    - Avoid sedating medications while trying to control pain
 morphine
   prn
    - Avoid unnessary wake-ups
   # Oliguria: Patient with intermittent oliguria during hospitalization.
   This has been in conjunction with poor po intake and [**Last Name (un) **] on CKD.
   Baseline Cr 2.2.  Upon transfer patient is getting D5/NS at 125mL/hr.
    - Monitor urine output
    - Continue IVF for now
    - If poor urine output: Ulytes, UEos (multiple antibiotics exposures)
   - Goal for fluid is negative, continue to monitor and treat with lasix
   if needed
   # Acute on chronic renal failure: Cr improved to 2.9 today, baseline is
   2.2. Per renal, somewhere between pre-renal and ATN. Renal ultrasound
   without hydronephrosis.
    - cont to monitor
    - Renally dose as appropriate
    - Kayexelate PR/PO if newly hyperkalemic
   # Acute on chronic anemia: History of myelodysplastic disorder, now
   with acute blood loss [**3-3**] to multiple eccymoses /  hematomas.  CT
   abdomen negative for RP bleed.  S/p 4U PRBC prior to transfer to the
   ICU.
    - Steroids as above (increased dosing)
    - PPx Bactrim once taking improved PO
    - monitor Hct daily
    - T&S
    - B12 injections monthly, Folate
   # Crohn's: Currently with diarrhea, though may be related to Kayexelate
   given for hyperkalemia
    - continue mesalamine once tolerating PO
    - could consider Mesalamine enemas if truly thought to be flair
    - Increased steroids as above
    - f/u C. Diff culture, hold flagyl
   # Hx of PE/DVT: last DVT [**5-8**] with PICC. Was on lovenox at home, but
   now concern for bleeding in setting of significant lacerations and
   fractures. Lovenox held briefly while inpatient for acute blood loss
   anemia.   She has IVC filter.
    - follow Hct
   - hold lovenox for now
   # Loss of vision/cataracts: per daughter lost vision in left eye 2
   months ago, no eye evaluation since due to unable to get to doctors
   [**Name5 (PTitle) **].  Ophthalmology consulted while inpatient and recommended
   continuation of home eye drops.
    - eye gtts per home regimen
   # Decubitus ulcer: Being followed by wound care with multiple
   recommendations.
    - Atmos Air Mattress
    - Wound Care recs
   # FEN: IVF prn / Replete PRN & monitor for hyperkalemia / NPO while
   mental status poor
   # Prophylaxis:
    - DVT
 IVC filter, hold heparin/lovenox
    - Bowel regimen
    - PPI given steroids
    - Insulin Sliding Scale while on increased Decadron
   # Access: PIV, Port
   # Code: DNR/DNI per daughter (who is at the bedside), avoid central
   lines/arterial lines
   # Communication: Patient (Russian) , daughter
   # Emergency Contact: Daughter
   # Disposition: ICU pending improvement
 consider call out if pt.
   stable on prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2195-4-2**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-04-05 07:21:00 Physician Resident Progress Note
24 Hour Events:
   No events overnight. Pt intermittently calling out for pain. Daughter
   at bedside this AM, states that Pt continues to complain of diffuse
   pain.
   Allergies:
   Belladonna Alkaloids
   itching; swolle
   Flagyl (Oral) (Metronidazole)
   Diarrhea;
   Last dose of Antibiotics:
   Metronidazole - [**2195-4-3**] 08:00 AM
   Vancomycin - [**2195-4-4**] 12:00 PM
   Cefipime - [**2195-4-4**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-4-4**] 08:38 AM
   Morphine Sulfate - [**2195-4-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-5**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 65 (63 - 94) bpm
   BP: 119/32(56) {102/31(52) - 134/54(81)} mmHg
   RR: 19 (6 - 30) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 63 Inch
             Total In:
                                                                    680 mL
                                                                     73 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    500 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    180 mL
   Urine:
                                                                    805 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -125 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Gen: NAD
   Pulm: diffuse bibasilar crackles
   CV: RRR, multiple dressings over anterior chest at sites of skin tears
   Abd: soft, BS+, ND/NT
   Ext:  RUE with ace wrap, knee immobilizer in place. LUE w/
   edema/weeping
   Peripheral pulses intact
   Labs / Radiology
   132 K/uL
   7.8 g/dL
   97 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   81 mg/dL
   116 mEq/L
   149 mEq/L
   24.3 %
   7.3 K/uL
        [image002.jpg]
                                                                [**2195-4-4**]
                                                                     5:32p
   _______________________________________________________________________
                                     pH
                                    7.24
                                    pCO2
                                     60
                                     pO2
                                     57
                                    HCO3
                                     27
                                   BaseXS
                                     -2
                             [**2195-4-3**]  02:22 AM
                             [**2195-4-3**]  04:43 AM
                             [**2195-4-3**]  12:28 PM
                             [**2195-4-4**]  06:05 AM
                             [**2195-4-5**]  05:17 AM
   WBC
   4.6
   6.4
   7.3
   Hct
   25.2
   24.9
   26
   24.5
   24.3
   Plt
   114
   136
   132
   Cr
   2.9
   2.7
   2.4
   Glucose
   108
   94
   97
   Other labs: PT / PTT / INR:10.7/28.1/0.9, ALT / AST:[**3-5**], Alk Phos / T
   Bili:75/0.4, Lactic Acid:0.8 mmol/L, LDH:189 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   83 year old female with very complicated medical history including
   Crohn's disease, with both bleeding and clotting who fell out of bed
   and sustained multiple fractures and ecchymosis; transferred to the ICU
   [**2195-4-2**] for hypercarbia and respiratory acidosis for non-invasive
   ventilation.
   # Hypercarbic respiratory failure: Patient with improved VBG this
   morning.  Initially suspected [**3-3**] narcotics use given recent injury but
   last dosing was [**3-28**].  Could also consider OSA that has been untreated
   but daughter states patient rarely uses CPAP at home.  Other
   considerations include PE (given history, femur fracture and off
   Lovenox) vs PNA.
    - repeat CXR --> with e/o new consolidation, will treat for HAP
   -  continue vanc/cefepime (No flagyl d/t terrible diarrhea in the past)
    - Hold CTA, Ddimer given ARF/CKD
   -  follow VBG
 start noninvasive if pH< 7.2 or CO2> 65
   - consider lasix in next several days
   # Fall with mulitple fractures and laceration: Intraarticular right
   knee/femur fracture and right elbow fracture with associated head
   injury and deep laceration to right arm and tear of left leg. Pt became
   more sleepy with oxycodone, so this was discontinued.  She was then
   treated with 7 days of Cefazolin per Ortho recs.  This was discontinued
   [**2195-4-2**]
    - Pain management: Tylenol scheduled (PR while NPO), Morphine PRN
    - Ortho recs (will need follows in 2 weeks with [**Doctor Last Name 3234**] [**Telephone/Fax (1) 11762**])
    - Vitamin A per Plastics
    - Take down brace once daily for skin checks
    - Avoid creams/lotions as may macerate skin further
    - Will need Plastics follow-up Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] @ [**Hospital3 290**]
   [**Telephone/Fax (1) 11763**]
    - Dressing changes Q3 days per Plastics; confirm that they are
   changing the dressings (vs would like primary team to change
   dressings).
   # Positive Blood Cultures: GPC in pairs and clusters, [**2-2**]: suspect
   contaminant, will await speciation, already on vanco. Treat HAP as
   above.
   - f/u cultures, surveillance cultures
   - echo if high grade bacteremia
   # Hypernatremia
free water deficit 2.1 L
   - 1 L fluid bolus + PO intake.
   # Acute on chronic renal failure: Cr improved to 2.7 today, baseline is
   2.2. Per renal, somewhere between pre-renal and ATN. Renal ultrasound
   without hydronephrosis.
    - cont to monitor
    - Renally dose as appropriate
    - Kayexelate PR/PO if newly hyperkalemic
   # Oliguria: Patient with intermittent oliguria during hospitalization.
   This has been in conjunction with poor po intake and [**Last Name (un) **] on CKD.
   Baseline Cr 2.2.  This AM Creatinine 2.4
    - Monitor urine output
    - Continue IVF for now as above
    - If poor urine output: Ulytes, UEos (multiple antibiotics exposures)
   - Goal for fluid is negative, continue to monitor and treat with lasix
   if needed
   # Hypothermia: Noted [**2195-4-2**], now resolved.  Concern for possible
   infectious sepsis.  Blood and urine cultures were obtained.  She was
   bolused with NS and treated with increased Dexamethasone given she's
   chronically on steroids for her Crohn's disease.
    - Decadron 4mg IV Q8
    - Continue abx as above
    - Send C.diff x 3
    - CXR to evaluate for pulmonary process --> with e/o new
   consolidation, will treat for HAP as above
    - Follow-up cultures
   # AMS: Suspect multifactorial including toxic-metabolic abnormalities
   (hypercarbia, infection); hospital delirium and/or infection that is
   being untreated.  UA from catheter concerning infection, awaiting urine
   culture.
    - Infectious work-up as above
    - Avoid sedating medications while trying to control pain
 morphine
   prn
    - Avoid unnessary wake-ups
   # Acute on chronic anemia: History of myelodysplastic disorder, now
   with acute blood loss [**3-3**] to multiple eccymoses /  hematomas.  CT
   abdomen negative for RP bleed.  S/p 4U PRBC prior to transfer to the
   ICU.
    - Steroids as above (increased dosing)
    - PPx Bactrim once taking improved PO
    - monitor Hct daily
    - T&S
    - B12 injections monthly, Folate
   # Crohn's: Currently with diarrhea, though may be related to Kayexelate
   given for hyperkalemia
    - mesalamine PO
   - Increased steroids as above
    - f/u C. Diff culture, hold flagyl
   # Hx of PE/DVT: last DVT [**5-8**] with PICC. Was on lovenox at home, but
   now concern for bleeding in setting of significant lacerations and
   fractures. Lovenox held briefly while inpatient for acute blood loss
   anemia.   She has IVC filter.
    - follow Hct
   - hold lovenox for now
 considering IVC filter
   # Loss of vision/cataracts: per daughter lost vision in left eye 2
   months ago, no eye evaluation since due to unable to get to doctors
   [**Name5 (PTitle) **].  Ophthalmology consulted while inpatient and recommended
   continuation of home eye drops.
    - eye gtts per home regimen
   # Decubitus ulcer: Being followed by wound care with multiple
   recommendations.
    - Atmos Air Mattress
    - Wound Care recs
   # FEN: hold IVF/ Replete PRN & monitor for hyperkalemia / start to
   advance diet today
   # Prophylaxis:
    - DVT
 consider IVC filter
   -- On heparin
    - Bowel regimen
    - PPI given steroids
    - Insulin Sliding Scale while on increased Decadron
   # Access: Port
   # Code: DNR/DNI per daughter (who is at the bedside), avoid central
   lines/arterial lines
   # Communication: Patient (Russian) , daughter
   # Emergency Contact: Daughter
   # Disposition: ICU today
 possible call out todayif doing well on
   intermittent bipap
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2195-4-2**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: